US05256675
To a solution of 2-amino-5-(2-pyridylthio)thiazole dihydrochloride (4.0 g) in chloroform (100 ml) was dropwise added the solution of 3-chloroperbenzoic acid (5.0 g) in chloroform (100 ml) at 5° C. with stirring. The mixture was stirred at 5° C. for 1.5 hours. The reaction mixture was washed with aqueous sodium bicarbonate and dried over magnesium sulfate. The solvent was concentrated under reduced pressure to give solid. The solid was subjected to column chromatography on silica gel (silica gel 60, 70-230 mesh; Merck: 100 g) and eluted with a mixture of chloroform and methanol (10:1). The fractions containing the objective compound were combined and concentrated under reduced pressure to give 2-amino-5-(2-pyridylsulfinyl)thiazole (3.4 g, yield: 78.9%). mp: 200°-202° C. (dec.) IR (Nujol): 3300, 3150, 1630, 1575, 1270, 1225 cm-1

reactant | 2-amino-5-(2-pyridylthio)thiazole dihydrochloride | 4.0 g | Cl.Cl.NC=1SC(=CN1)SC1=NC=CC=C1
reactant | 3-chloroperbenzoic acid | 5.0 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-amino-5-(2-pyridylsulfinyl)thiazole | 3.4 g, yield: 78.9% | NC=1SC(=CN1)S(=O)C1=NC=CC=C1 | C8H7N3OS2
